US06673931B2
Preparation of 2-(3-chloro-propoxymethyl)-4-fluoro-1-methoxy-benzene
0.870 g (5.00 mmol) of 2-chloromethyl-4-fluoro-1-methoxy-benzene [B. Maziere, N. Dat-Xuong, Chim. Ther. (3), 1-9(1968)]and 0.83 ml of 3-chloro-1-propanol were dissolved in 4.8 ml of N,N-dimethylformamide. 0.267 g (6.23 mmol) of sodium hydride (55% dispersion in mineral oil) was added in small portions over 2 hours keeping the temperature at 10-15° C. After 1 hour stirring at room temperature, 0.032 g (0.75 mmol) of sodium hydride dispersion was added and the mixture stirred another 3 hours. Thereupon, the reaction mixture was poured into 50 ml of ice-water and extracted three times with 100 ml of ether. The combined ether phases were subsequently washed with water, dried over magnesium sulphate and evaporated on a rotary evaporator at a maximum 40° C. The residue (1.5 g) which was thereby obtained was chromatographed on silica gel with dichloromethane/hexane (1:1). There was thus obtained 0.928 g (3.99 mmol), 80%,2-(3-chloro-propoxymethyl)-4-fluoro-1-methoxy-benzene as a colorless oil: MS: 232, 234 (M)+.

reactant | 2-chloromethyl-4-fluoro-1-methoxy-benzene | 5.00 mmol, 0.870 g | ClCC1=C(C=CC(=C1)F)OC | C8H8ClFO
reactant | 3-chloro-1-propanol | ClCCCO | C3H7ClO
reactant | sodium hydride | 6.23 mmol, 0.267 g | [H-].[Na+]
reactant | sodium hydride | 0.75 mmol, 0.032 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 4.8 ml | CN(C=O)C | C3H7NO
product | 2-(3-chloro-propoxymethyl)-4-fluoro-1-methoxy-benzene | 1.5 g | ClCCCOCC1=C(C=CC(=C1)F)OC | C11H14ClFO2
